US05155113
Preparation of 3'-O-benzyl-2'-deoxy-3-benzoyl-5-fluorouridine
To a solution of 0.50 g of 3'-O-benzyl-2'-deoxy-5-fluorouridine in 20 ml of dioxane were added 0.75 ml of trimethylchlorosilane and 2.00 ml of triethylamine, and the mixture was stirred at room temperature for 2 hours. Then, the resulting mixture was left to stand at 60° C. for 30 minutes. To the reaction mixture were added 0.42 g of benzoyl bromide and 1.00 ml of triethylamine, and the mixture was left to stand at 60° C. for 1 hour. The solvent was distilled off and the residue was dissolved in 50 ml of ethyl acetate. Then, the solution was washed with saturated aqueous solution of sodium chloride. The ethyl acetate layer was separated and concentrated. The residue was dissolved in 30 ml of methanol and 0.5 ml of acetic acid was added thereto. The mixture was left to stand overnight. The solvent was distilled off and the residue was applied to a silica gel column to conduct gradient elution using chloroform and mixtures of methanol (up to 2%) and chloroform, giving 0.35 g of the title compound as a powder in a yield of 54%.

reactant | 3'-O-benzyl-2'-deoxy-5-fluorouridine | 0.50 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)F | C16H17FN2O5
reactant | trimethylchlorosilane | 0.75 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 2.00 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl bromide | 0.42 g | C(C1=CC=CC=C1)(=O)Br | C7H5BrO
reactant | triethylamine | 1.00 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3'-O-benzyl-2'-deoxy-3-benzoyl-5-fluorouridine | 0.35 g, yield of 54% | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)N(C(=O)C(=C1)F)C(C1=CC=CC=C1)=O | C23H21FN2O6
